US05250528
To a solution of 1-[2-[bis(4-fluorophenyl)-methoxy]ethyl]piperazine (1 g) in 1N-hydrochloric acid (3 ml) was added 1N-hydrochloric acid in order to adjust pH to 4. The mixture was stirred at 70°-75° C. and therein a solution of sodium nitrite (0.31 g) in water (0.5 ml) was added dropwise. The mixture was stirred at 70°-75° C. for one hour, cooled, and diluted with a mixture of diethyl ether and aqueous sodium bicarbonate solution. The organic layer was washed withbrine, dried, and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluted with chloroform to yield 1-[2-[bis(4-fluorophenyl)methoxy]ethyl]-4-nitrosopiperazine (0.9 g) as an oil.

reactant | 1-[2-[bis(4-fluorophenyl)-methoxy]ethyl]piperazine | 1 g | FC1=CC=C(C=C1)C(OCCN1CCNCC1)C1=CC=C(C=C1)F | C19H22F2N2O
reactant | hydrochloric acid | 3 ml | Cl | ClH
reactant | sodium nitrite | 0.31 g | N(=O)[O-].[Na+]
solvent | water | 0.5 ml | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 1-[2-[bis(4-fluorophenyl)methoxy]ethyl]-4-nitrosopiperazine | 0.9 g | FC1=CC=C(C=C1)C(OCCN1CCN(CC1)N=O)C1=CC=C(C=C1)F | C19H21F2N3O2
